US09403773B2
Potassium carbonate (3.73 g, 27 mmol) and iodide (6.85 g, 27 mmol) were added to a DMF solution (20 ml) of 5-fluoro-8-propoxy-2-trifluoromethyl-1H-quinolin-4-one (6.0 g, 20.7 mmol) in that order, and the resulting mixture was stirred at room temperature for 1.5 hours. A saturated sodium sulfite aqueous solution (20 ml) and ethyl acetate were added to the reaction mixture, and the precipitated solid was collected by filtration. The filtrate was washed with water, and then dried over anhydrous sodium sulfate. The dried filtrate was concentrated under reduced pressure. The residue and the substance collected by the advance filtration were combined, and dissolved in ethanol, and then concentrated. The residue was recrystallized from an ethyl acetate-n-hexane mixed solvent to thereby obtain 4.7 g of powdery white 5-fluoro-3-iodo-8-propoxy-2-trifluoromethyl-1H-quinolin-4-one (yield: 55%).

reactant | Potassium carbonate | 27 mmol, 3.73 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodide | 27 mmol, 6.85 g | [I-]
reactant | 5-fluoro-8-propoxy-2-trifluoromethyl-1H-quinolin-4-one | 20.7 mmol, 6.0 g | FC1=C2C(C=C(NC2=C(C=C1)OCCC)C(F)(F)F)=O | C13H11F4NO2
reactant | sodium sulfite | 20 ml | S(=O)([O-])[O-].[Na+].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 5-fluoro-3-iodo-8-propoxy-2-trifluoromethyl-1H-quinolin-4-one | 4.7 g, yield: 55% | FC1=C2C(C(=C(NC2=C(C=C1)OCCC)C(F)(F)F)I)=O | C13H10F4INO2
